US09210927B2
Preparation of (E)-2-(2-Chloro-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)benzyl)isoindoline-1,3-dione (CI26)
To a stirred solution of 2-(2-chloro-4-vinylbenzyl)isoindoline-1,3-dione (2.0 g, 6.51 mmol) in 1,2-dichlorobenzene (25 mL) were added 1-(1-bromo-2,2,2-trifluoroethyl)-3,5-dichlorobenzene (3.48 g, 11.36 mmol), CuCl (112 mg, 1.13 mmol) and 2,2-bipyridyl (0.35 g). The resultant reaction mixture was degassed with argon for 30 min and then was stirred at 180° C. for 24 h. After the reaction was deemed complete by TLC, the reaction mixture was cooled to ambient temperature and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography (SiO2, 100-200 mesh; 25-30% EtOAc in n-hexane) to afford the title compound as solid (1.3 g, 50%): mp 141-143° C.; 1H NMR (400 MHz, CDCl3) δ 7.92 (m, 2H), 7.79 (m, 2H), 7.42 (m, 2H), 7.24 (m, 2H), 7.20 (m, 2H), 6.54 (d, J=16.0 Hz, 1H), 6.34 (dd, J=16.0, 8.0 Hz, 1H), 5.00 (s, 2H), 4.10 (m, 1H); ESIMS m/z 524.07 ([M+H]+).

reactant | 2-(2-chloro-4-vinylbenzyl)isoindoline-1,3-dione | 6.51 mmol, 2.0 g | ClC1=C(CN2C(C3=CC=CC=C3C2=O)=O)C=CC(=C1)C=C | C17H12ClNO2
reactant | 1-(1-bromo-2,2,2-trifluoroethyl)-3,5-dichlorobenzene | 11.36 mmol, 3.48 g | BrC(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C8H4BrCl2F3
reactant | 2,2-bipyridyl | 0.35 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
solvent | 1,2-dichlorobenzene | 25 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | CuCl | 1.13 mmol, 112 mg | Cl[Cu]
product | (E)-2-(2-Chloro-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)benzyl)isoindoline-1,3-dione | 1.3 g, 50% | ClC1=C(CN2C(C3=CC=CC=C3C2=O)=O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C25H15Cl3F3NO2
